US04749818
Preparation of Cis-9-Tricosene
The reaction mixture was then cooled to -25° C. Next 25 mL tetrahydrofuran, 2.8 mL 1-bromopentane, and 1.14 grams cuprous bromide were added. The reaction mixture was held at -25° C. for 2 hours. Cooling coils were removed, and the reaction mixture allowed to slowly warm to 25° C. over the next 18 hours. Dilute HCl equal in volumetric amount to the reaction mixture was added, causing a phase separation. Hexane, equal in volumetric amount to the organic layer, was added. The organic layer was then separated. Next an aqueous sodium bicarbonate, equal in volumetric amount to the separated organic layer, was added to the separated organic layer. Once again the organic layer was separated and then fed to a distillation column. 2.6 grams of cis-9-tricosene were recovered.

reactant | 1-bromopentane | 2.8 mL | BrCCCCC | C5H11Br
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | Cis-9-Tricosene | CCCCCCCC\C=C/CCCCCCCCCCCCC | C23H46
